US04320235
It is known that as a rule the alkylation of 2-naphthol with an olefin or alcohol in the presence of an inorganic acid or organic sulfonic acid principally gives a 6-alkylated 2-naphthol. J. Org. Che., 17 (1952), 243- 248 describes the preparation of 6-(α-phenylethyl)-2-naphthol by reacting 2-naphthol with styrene in the presence of sulfuric acid, the yield being 92 percent. J. Org. Chem., 16 (1951), 185-191 discloses that 6-cyclohexyl-2-naphthol is formed by reacting 2-naphthol with cyclohexanol in the presence of phosphoric acid.

reactant | 6-(α-phenylethyl)-2-naphthol | C1(=CC=CC=C1)C(C)C=1C=C2C=CC(=CC2=CC1)O | C18H16O
reactant | 2-naphthol | C1=C(C=CC2=CC=CC=C12)O | C10H8O
reactant | styrene | C=CC1=CC=CC=C1 | C8H8
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 6-cyclohexyl-2-naphthol | C1(CCCCC1)C=1C=C2C=CC(=CC2=CC1)O | C16H18O
